US04927928
In a round bottom flask, there are introduced 4.96 g (20 mmoles) of 3-(1-methylcyclohexyl)-4-methoxy benzoic acid, 75 ml of dichloromethane, and 4 ml (20 mmoles) of dicyclohexylamine. The reaction mixture is stirred for 1 hour. To the resulting solution, there are added 1.45 ml (20 mmoles) of thionyl chloride (SOCl2) and the mixture is stirred for 2 hours at ambient temperature. The reaction mixture is then evaporated to dryness and taken up in 200 ml of ether. The dicyclohexyl-ammonium chloride is filtered off and the solvent is evaporated, yielding 5.30 g (100% yield) of crude 3-(1-methylcyclohexyl)-4-methoxy benzoyl chloride which is used, as is, for the following synthesis:

reactant | 3-(1-methylcyclohexyl)-4-methoxy benzoic acid | 20 mmoles, 4.96 g | CC1(CCCCC1)C=1C=C(C(=O)O)C=CC1OC | C15H20O3
reactant | dicyclohexylamine | 20 mmoles, 4 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 20 mmoles, 1.45 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-(1-methylcyclohexyl)-4-methoxy benzoyl chloride | 5.30 g, 100% yield | CC1(CCCCC1)C=1C=C(C(=O)Cl)C=CC1OC | C15H19ClO2
